US06429214B1
[2-(2-tert-Butoxycarbonylamino-ethoxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-acetic acid ethyl ester
The title compound was prepared according to the procedure of Example 19 except that (2-bromo-ethyl)-carbamic acid tert-butyl ester was used in place of (3-bromo-propyl)-carbamic acid tert-butyl ester and (2-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-acetic acid ethyl ester was used in place of (7-hydroxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester and the title compound was isolated as a pale yellow oil.

reactant | (2-bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | (2-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-acetic acid ethyl ester | C(C)OC(CC1CC2=C(CCC1)C=C(C=C2)O)=O | C15H20O3
product | [2-(2-tert-Butoxycarbonylamino-ethoxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-acetic acid ethyl ester | C(C)OC(CC1CC2=C(CCC1)C=C(C=C2)OCCNC(=O)OC(C)(C)C)=O | C22H33NO5
